US06632901B2
Preparation of rac-dimethylsilylbis(tetrahydroindenyl)zirconium difluoride
To a murky green-yellow solution of rac-dimethylsilyl-bis(tetrahydroindenyl)zirconium dichloride [DMS bis (THI)ZrCl2] (1.00 g, 2.19 mmol, 1.00 eq.) in dichloromethane (15 mL) was added tributyltin fluoride (1.42 g, 4.59 mmol, 2.10 eq.). The reaction lightened immediately. The reaction was stirred for one hour and was then filtered to give a straw-yellow solution and a small amount of brownish solid. The solution was then evaporated in vacuo, leaving a manila-colored, thick suspension. The suspension was washed with pentane (20 mL, then 3×5 mL) to give a white, micro crystalline solid. The solid was dried in vacuo to yield 0.76 g (82%). 1H NMR (CD2Cl2): δ0.80 (s, 6H, SiMe2, 1.45-1.9 and 2.4-2.7 (br m, 16H, aliphatic-ring-H), 5.61 (d, 2H, cyclopentadienyl-ring-H), 6.27 (br s, 2H, cyclopentadienyl-ring-H). 19F NMR (CD2Cl2): δ19.9 (s).

reactant | rac-dimethylsilyl-bis(tetrahydroindenyl)zirconium dichloride | 2.19 mmol, 1.00 g, 1.00 eq. | [Cl-].[Cl-].C[SiH](C)[Zr+2](C1CCC2CC=CC=C12)C1CCC2CC=CC=C12
reactant | tributyltin fluoride | 4.59 mmol, 1.42 g, 2.10 eq. | C(CCC)[Sn](CCCC)(CCCC)F
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | rac-dimethylsilylbis(tetrahydroindenyl)zirconium difluoride | [F-].[F-].C[SiH](C)[Zr+2](C1CCC2CC=CC=C12)C1CCC2CC=CC=C12 | InChI=1S/2C9H11.C2H7Si.2FH.Zr/c2*1-2-5-9-7-3-6-8(9)4-1;1-3-2;;;/h2*1-2,4,6,9H,3,5,7H2;3H,1-2H3;2*1H;/q;;;;;+2/p-2
